US06414179B1
tert-Butyl 4-(bromomethyl)benzoate
4-(Bromomethyl)benzoic acid (6 g, 26 mmol) and isobutene (30 ml) were reacted by the same procedure as described in Example 3 for the preparation of tert-butyl 4-iodobutanoate and afforded the title material (2.4 g) as a pale yellow oil.

reactant | 4-(Bromomethyl)benzoic acid | 26 mmol, 6 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | tert-butyl 4-iodobutanoate | ICCCC(=O)OC(C)(C)C | C8H15IO2
solvent | isobutene | 30 ml | C=C(C)C | C4H8
product | tert-Butyl 4-(bromomethyl)benzoate | 2.4 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
